Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
upper extremity pain and weakness 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ year-old right-handed man with Factor VIII
heterozygous mutation (per OMR but pt cannot confirm), HTN who
presents with abnormal MRI that was read as cervical cord
infarct.

He was in his USOH until two days ago.  When he was at work with
his hands typing on the keyboard, he had a sudden onset feeling
of heaviness and numbness in his bilateral hands.  He knew that
his fingers are still touching the keyboard but the sensation 
was
off.  He also could not type normally and had to lean his upper
body in order to press on the keys (sounds like finger 
weakness).
He thought these symptoms may be related to his diabetes so he
decided to leave work and drive home.

On his drive home, he felt that his arms become more numb and
weak. In addition, his arms are very painful from shoulder down,
which is worse distally (in the hands) than proximally.  He also
has a bifrontal pressure HA that is similar to his usual HA
except that it was more severe.  Because of all these, he drove
himself to ___ ED.

In OSH ED, his wife noted that his hands (especially the 
fingers)
are pale and bluish.  His hands continued to be very painful. BP
160/90's per wife's report.  There, they did basic labs, CT head
and CT ___.  CT head did not show any acute abnormality.  
The
CT ___ showed "neck arthritis".  He was discharged on Valium
and Oxycodone and asked to follow up with neurology.  

He went to see his PCP yesterday evening.  Because of his arm
weakness on exam, he was referred for urgent MRI of the ___
with and without contrast.  Today, he got the MRI.  It was read
as concerning for cervical cord acute/subacute infarct.  He was
called to urgently come to the ED for evaluation.

Of note, he had never experienced these symptoms in the past. 
Also, his weakness on the left improved over the past two days
but remained/worsened on the right.

 
Past Medical History:
Heterozygous prothrombin gene mutation (confirmed by Dr. ___ 
___ note in ___
HTN
T2DM
HLD
Obesity
s/p multiple hip replacement surgeries (due to hockey injury)
Denies h/o MI, stroke or history of clotting
 
Social History:
___
Family History:
Father MI s/p cardiac stent
Father and a brother have prothrombin ___ mutation
 
Physical Exam:
Admission Physical Exam:
Vitals: 
98.3, 83, 153/104, 16, 98% RA 
General: Awake, NAD.
HEENT: NC/AT
Neck: Supple. No nuchal rigidity
Pulmonary: Lungs CTA 
Cardiac: RRR
Abdomen: soft, NT/ND

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Pt was able to name both high and low
frequency objects.  Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. Pt was able to recall events. The pt had good 
knowledge
of current events. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. Pronates on the right
without drift.

  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___- 5-  5    5  5     5     5   5
R  4+   4+  4-  4-  ___- 5-  5    5  5     5     5   5

-Sensory: No deficits to light touch throughout.  Decreased
pinprick in some of the finger tips.  There is a gradient
decrease in cold sensation in distal legs (worse on the right)

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
Plantar response was flexor bilaterally.

-Coordination: No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing. Romberg absent.

DISCHARGE PHYSICAL EXAM:
98.6 98.1 ___ 20 96%RA Gluc 200-240

General: Awake, NAD.
HEENT: NC/AT
Neck: Supple. No nuchal rigidity
Pulmonary: Lungs CTA 
Cardiac: RRR
Abdomen: soft, NT/ND

Neurologic:
-Mental Status: Alert, oriented x 3. Attentive. Language is 
fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. Pt was able to recall events. The pt had good 
knowledge
of current events. There was no evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

R Tri 4, ECR 4+ FEx ___ FFI 4
Motor exam otherwise ___ 

R pronator drift

sensation intact, equal bilaterally to light touch in face, 
upper extremities, and lower extremities

 
Pertinent Results:
___ 06:42AM BLOOD WBC-6.6 RBC-4.78 Hgb-13.6* Hct-40.4 
MCV-85 MCH-28.5 MCHC-33.7 RDW-12.2 RDWSD-36.8 Plt ___
___ 06:15AM BLOOD WBC-7.2 RBC-4.65 Hgb-13.0* Hct-39.4* 
MCV-85 MCH-28.0 MCHC-33.0 RDW-12.4 RDWSD-37.1 Plt ___
___ 05:55PM BLOOD WBC-8.4 RBC-5.16 Hgb-14.4 Hct-43.1 MCV-84 
MCH-27.9 MCHC-33.4 RDW-12.3 RDWSD-37.3 Plt ___
___ 05:55PM BLOOD Neuts-56.8 ___ Monos-6.3 Eos-1.2 
Baso-0.5 Im ___ AbsNeut-4.78 AbsLymp-2.92 AbsMono-0.53 
AbsEos-0.10 AbsBaso-0.04
___ 06:42AM BLOOD Plt ___
___ 05:55PM BLOOD Plt ___
___ 06:42AM BLOOD Glucose-288* UreaN-16 Creat-0.6 Na-139 
K-4.2 Cl-102 HCO3-26 AnGap-15
___ 06:15AM BLOOD Glucose-291* UreaN-22* Creat-0.8 Na-133 
K-3.5 Cl-96 HCO3-27 AnGap-14
___ 05:55PM BLOOD Glucose-518* UreaN-24* Creat-0.6 Na-132* 
K-4.4 Cl-93* HCO3-25 AnGap-18
___ 06:42AM BLOOD Calcium-9.0 Phos-3.2 Mg-1.5*
___ 06:15AM BLOOD Calcium-9.0 Phos-3.5 Mg-1.5*
___ 12:50PM BLOOD %HbA1c-13.1* eAG-329*
___ 06:42AM BLOOD VitB12-409
___ 06:01PM BLOOD Lactate-2.1*

___ EKG
Sinus rhythm. Consider old inferior myocardial infarction. Early 
R wave  
transition. No previous tracing available for comparison.  

___ CTA HEAD W&W/O C & RECONS
1.  No evidence of acute intracranial hemorrhage. 
2. No evidence of aneurysm greater than 3 mm, dissection or 
vascular 
malformation, or significant luminal narrowing. 
3. Partially visualized coronary artery atherosclerosis. 

___ MR CERVICAL SPINE W/O CONTRAST
1. Mild expansion of the spinal cord at C4-6 with internal high 
signal which 
conforms to the anatomy of spinal cord gray matter and 
demonstrates low 
diffusion, consistent with acute spinal cord infarction. 
2. Multilevel degenerative changes throughout the cervical 
spine, as described 
above. 

___ MRA NECK W&W/O CONTRAST
1. Normal MRA neck.

___ ECHO
Normal biventricular size and regional/global systolic function. 
No pathologic valvular flow. No cardiac source of embolism. 
Mildly dilated thoracic aorta.  

 
Brief Hospital Course:
Mr. ___ is a ___ year-old right-handed man with 
heterozygous prothrombin mutation, HTN who presents with sudden 
onset bilateral arm weakness, numbness, pain, and distal hand 
pallor and cyanosis.  The weakness improved on the left and 
remained/worsened on the right.  On exam, he has
weakness in the right arm in all muscles groups.  Given the 
pain, pallor and cyanosis, vascular surgery was consulted but 
thought that suspicion for PAD is low given palpable pulses.  
MRI shows T2 hyperintensity at C4-6 extending along the right 
side of the cord cranially and caudally.  Given the sudden onset 
nature of
the event along with the MR ___ findings and vascular risk 
factors, his presentation is most concerning for spinal cord 
infarct.  CTA head and neck did not show any flow limiting 
stenosis or dissection. 

Over the course of the hospitalization, the weakness improved on 
the left and remained mildly weak on the right.  On exam, he has 
weakness in the right arm in all muscles groups. MRI confirmed 
suspicion for acute spinal cord infarct at C4-6. He was seen by 
physical therapy for treatment and evaluation for services. He 
was seen by ___ Diabetes and started on insulin 16 Units 
every night before bed, as well as an insulin sliding scale to 
treat poorly controlled DM2. He will follow up with Neurology, 
___ diabetes, and primary care physician as scheduled. He was 
scheduled for TTE with bubbles as an outpatient given his 
clinical stability and the fact that a TTE would not be done 
over the long weekend. This would have resulted in 3 unnecessary 
days of inpatient care while awaiting TTE. Will look for any ASD 
or PFO that could serve as a conduit for a venous clot through 
the heart and to the spinal arteries. Without an ASD or PFO, it 
would be highly improbable that his prothrombin mutation was 
related to the spinal cord infarct because prothrombin mutation 
causes venous clots. He will need additional hypercoagulability 
testing as an outpatient. 

We will follow up TTE closely. He has been scheduled for close 
follow up as above. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. MetFORMIN (Glucophage) 750 mg PO TID 
4. Sertraline 100 mg PO DAILY 
5. GlipiZIDE XL 10 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Sertraline 100 mg PO DAILY 
4. Glargine 16 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
RX *insulin glargine [Lantus] 100 unit/mL 16 Units 
subcutaneously 16 Units before BED; Disp #*5 Vial Refills:*0
RX *insulin lispro [Humalog KwikPen] 100 unit/mL AS DIR Up to 18 
Units QID per sliding scale Disp #*30 Syringe Refills:*0
RX *insulin syringe-needle U-100 [Insulin Syringe] 30 gauge X 
___  every night before bed, sliding scale as needed Disp #*3 
Syringe Refills:*0
RX *insulin syringe-needle U-100 [Insulin Syringe] 30 gauge X 
___  four times a day with insulin sliding scale as needed 
Disp #*120 Syringe Refills:*0
5. MetFORMIN (Glucophage) 750 mg PO TID 
6. Humalog KwikPen needles
Please supply Humalog KwikPen Needles
100 Needles

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute ischemic stroke of the spinal cord

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
You were hospitalized due to symptoms of upper extremity pain 
and weakness resulting from an ACUTE ISCHEMIC STROKE of the 
spinal cord, a condition where a blood vessel providing oxygen 
and nutrients to the spinal cord is blocked. The spinal cord is 
the part of your body that controls and directs many of the 
other parts of your body, so damage to the spinal cord from 
being deprived of its blood supply can result in a variety of 
symptoms.  
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
Diabetes
High blood pressure
High cholesterol
 
We are changing your medications as follows:  
You have been started on insulin 16 Units every night before 
bed, as well as an insulin sliding scale to treat your high 
blood sugars
 
Please take your other medications as prescribed.  
Please followup with Neurology, ___ diabetes, and your 
primary care physician as listed below. You are also being 
scheduled for an ultrasound of your heart this week with 
cardiology. 

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- sudden partial or complete loss of vision  
- sudden loss of the ability to speak words from your mouth  
- sudden loss of the ability to understand others speaking to 
you  
- sudden weakness of one side of the body  
- sudden drooping of one side of the face  
- sudden loss of sensation of one side of the body  
 
Followup Instructions:
___